US04038391
The procedure described in Example 4 is followed but starting with 2-(7-bromo-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one (8 g.) in anhydrous dimethylformamide (240 cc.), sodium hydride (50% dispersion in mineral oil) (1.2 g.) and 1-chlorocarbonyl-4-methylpiperazine (4.1 g.) in anhydrous dimethylformamide (40 cc.). After stirring at 26° C. for 18 hours, the reaction mixture is poured into ice-water (1,500 cc.). The insoluble matter (7.3 g.) is filtered off and dissolved in a mixture (73 cc.) of methylene chloride and ethyl acetate (80-20 by volume). The solution obtained is passed through a column of silica gel (73 g.). Elution is first carried out with a mixture (5,750 cc.) of methylene chloride and ethyl acetate (80-20 by volume); the corresponding eluates are discarded. Elution is then carried out with pure ethyl acetate (1,250 cc.) and then with a mixture (1,250 cc.) of ethyl acetate and methanol (50--50 by volume); the corresponding eluates are combined and concentrated to dryness. A residue (3 g.) is obtained which is dissolved in ethanol (90 cc.). A solution of oxalic acid (0.53 g.) in ethanol (10.5 cc.) is added to the solution obtained. The mixture is stirred for 1 hour and the precipitate which forms is filtered off and washed with ethanol (6 cc.). A product (1.8 g.), melting at 260° C., is thus obtained and is treated with a saturated solution of sodium bicarbonate (50 cc.) and methylene chloride (40 cc.). The organic layer is isolated by decanting, dried over anhydrous potassium carbonate and concentrated to dryness. A residue weighing 1.2 g. is obtained and is recrystallised from ethanol (80 cc.). 2-(7-Bromo-1,8-naphthyridin-2-yl)-3-(4-methylpiperazin-1yl)carbonyloxy-isoindolin-1-one (0.9 g.), melting at 225°-230° C., is thus obtained.

reactant | 2-(7-bromo-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one | 8 g | BrC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C16H10BrN3O2
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | 1-chlorocarbonyl-4-methylpiperazine | 4.1 g | ClC(=O)N1CCN(CC1)C | C6H11ClN2O
reactant | oxalic acid | 0.53 g | C(C(=O)O)(=O)O | C2H2O4
reactant | sodium bicarbonate | 50 cc | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 240 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 cc | CN(C=O)C | C3H7NO
solvent | ethanol | 90 cc | C(C)O | C2H6O
solvent | ethanol | 10.5 cc | C(C)O | C2H6O
solvent | methylene chloride | 40 cc | C(Cl)Cl | CH2Cl2
product | 2-(7-Bromo-1,8-naphthyridin-2-yl)-3-(4-methylpiperazin-1yl)carbonyloxy-isoindolin-1-one | 0.9 g | BrC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)N1CCN(CC1)C)=O | C22H20BrN5O3
